US07247687B2
2,3-Hexanedione (4.0 mL, 33 mmol) was slowly added to the mixture of 2,6-dimethylaniline (10 g, 80 mmol) and 0.2 mL formic acid in 25 mL of methanol. The mixture was stirred for 6 hours. After this time period, the solvent and excess of aniline were removed under vacuum. The residual viscous oil was dissolved in n-pentane and cooled to give a yellow solid which was recrystallized from n-pentane. The product, 2-methyl-3-propyl-1,4-bis(2,6-dimethylphenyl)-1,4-diaza-1,3-butadiene was isolated as yellow crystals (1.9 g, 18%). 1H NMR (200 MHz, CDCl3, δ, ppm): 0.84 t (3H, J=7.28 Hz, (CH2)2CH3); 1.52 m (2H, CH2CH2CH3); 2.03 s (3H, N═CCH3); 2.05 s and 2.06 s (6H and 6H, 2,6- and 2′,6′-CH3); 2.50 m (2H, CH2CH2CH3); 6.89-7.15 m (6H, 2×C6H3). 13C NMR (50.3 MHz, CDCl3, δ, ppm): 14.59 (CH2CH2CH3); 16.38 (N═CCH3); 17.96 and 18.03 (0.2,6- and 2′, 6′-CCH3); 20.28 (CH2CH2CH3); 31.24 (CH2CH2CH3); 123.13 and 123.18 (4- and 4′-CH); 124.67 and 124.75 (2,6 and 2′,6′-C); 127.94 and 127.98 (3,5- and 3′,5′-CH); 147.99 (140 -C); 148.51 (1-C); 167.61 (N═CMe); 171.52 (N═CPr).

reactant | 2,3-Hexanedione | 33 mmol, 4.0 mL | CC(C(CCC)=O)=O | C6H10O2
reactant | 2,6-dimethylaniline | 80 mmol, 10 g | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | formic acid | 0.2 mL | C(=O)O | CH2O2
solvent | methanol | 25 mL | CO | CH4O
product | 2-methyl-3-propyl-1,4-bis(2,6-dimethylphenyl)-1,4-diaza-1,3-butadiene | CC(=NC1=C(C=CC=C1C)C)C(=NC1=C(C=CC=C1C)C)CCC | C22H28N2
